US07196087B2
To 1.0 g (6.36 mmol)of 2,3,6-trifluorobenzonitrile dissolved in 10 mL DMF was added 1.05 g (1.2 eq., 7.63 mmol) potassium carbonate and 1.18 g (1 eq., 6.36 mmol) piperazine-1-carboxylic acid tert-butyl ester. The mixture was stirred 30 minutes to completion, partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated under reduced pressure. Column chromatography, eluting with ethyl acetate/hexanes provided 665 mg of 4-(2-cyano-3,6-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 2,3,6-trifluorobenzonitrile | 6.36 mmol, 1.0 g | FC1=C(C#N)C(=CC=C1F)F | C7H2F3N
reactant | potassium carbonate | 7.63 mmol, 1.05 g, 1.2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine-1-carboxylic acid tert-butyl ester | 6.36 mmol, 1.18 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2-cyano-3,6-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 665 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1F)F)C#N | C16H19F2N3O2
